US06875759B1
Preparation of 1,4-Di-[(N,N′-di-p-tolyl)amidino]piperizine
0.5 mmol of piperazine was dissolved in 10 ml of DMF and 1.05 mmol of 1,3 di-p-tolylcarbodiimide was added. After 0.5 h. of stirring at room temperature, a small precipitation was filtered off and washed twice with 1 ml of DMF. The filtrates were collected and kept at room temperature overnight. To the DMF solution, 50 ml of water was added. The precipitated solid was filtered and washed with water. The solid was dissolved in ethyl acetate (20 ml) and 0.2 ml of conc. HCl conc. was added. The product began to precipitate within 15 min. After 1 hour, the precipitate was filtered and washed with ethyl ether. Yield=76%.

reactant | piperazine | 0.5 mmol | N1CCNCC1 | C4H10N2
reactant | 1,3 di-p-tolylcarbodiimide | 1.05 mmol | C1(=CC=C(C=C1)N=C=NC1=CC=C(C=C1)C)C | C15H14N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1,4-Di-[(N,N′-di-p-tolyl)amidino]piperizine | Yield=76% | C1(=CC=C(C=C1)NC(=NC1=CC=C(C=C1)C)N1CCN(CC1)C(NC1=CC=C(C=C1)C)=NC1=CC=C(C=C1)C)C | C34H38N6
